US07429609B2
Amino-phenyl acetonitrile
To a 0.3 ml aqueous solution of 46 mg of sodium cyanide and 55 mg of ammonium chloride was added a solution of 100 mg of benzaldehyde in 0.3 ml of methanol, and the resulting mixture was stirred at room temperature for 5 hours. After adding aqueous solution of ammonium chloride to the reaction mixture, it was extracted with ethyl acetate twice. The organic layer was washed successively with a saturated aqueous solution of ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. Then, the crude product was purified and separated by LC-MS, to give 44.2 mg of the title compound as colorless crystals.

reactant | sodium cyanide | 46 mg | [C-]#N.[Na+]
reactant | ammonium chloride | 55 mg | [Cl-].[NH4+]
reactant | benzaldehyde | 100 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 0.3 ml | CO | CH4O
product | Amino-phenyl acetonitrile | 44.2 mg | NC(C#N)C1=CC=CC=C1 | C8H8N2
